US08445510B2
1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-5-methyl-1H-pyrazole
To a solution of 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-1H-pyrazole (500 mg, 1.62 mmol) in THF (4 mL, 50 mmol), cooled to −78° C., was added 1.5 M of LDA in cyclohexane (3.25 mL, 4.87 mmol). After stirring for 1 h, methyliodide (1.01 mL, 16.2 mmol) was added slowly, and the mixture was stirred at −78° C. for 1 h. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo. The material was purified via column chromatography, eluting with 5-10% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. MS (ES+): m/z=323.06 (100) [MH+]. HPLC: tR=1.20 min (polar—3 min, UPLC-ACQUITY).

reactant | 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-1H-pyrazole | 1.62 mmol, 500 mg | CC1(OC[C@H](O1)CN1N=CC(=C1)I)C | C9H13IN2O2
reactant | THF | 50 mmol, 4 mL | C1CCOC1 | C4H8O
reactant | LDA | 1.5 M | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 4.87 mmol, 3.25 mL | C1CCCCC1 | C6H12
reactant | methyliodide | 16.2 mmol, 1.01 mL | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-5-methyl-1H-pyrazole | CC1(OC[C@H](O1)CN1N=CC(=C1C)I)C | C10H15IN2O2
